US06465467B1
Step 1: 2-[(2-Amino-4-quinolinyl)oxy]-1-ethanol.
To a mixture of 2-amino-4-hydroxyquinoline (0.505 g, 3.15 mmol) and K2CO3 (0.87 g, 6.3 mmol) in DMF (10 mL) was added of 2-bromoethanol (0.470 g, 3.78 mmol). The mixture was stirred at 150° C. for 7 h. The reaction mixture was concentrated and the residue purified by column chromatography on silica using MeOH/CHCl3 (1:9) as eluent. The resulting brown oil (0.30 g, 30%), which was used directly in the next step, contained 75% of the desired product and 25% of unreacted starting material. MS m/z 205 (M+H)+.

reactant | 2-amino-4-hydroxyquinoline | 3.15 mmol, 0.505 g | NC1=NC2=CC=CC=C2C(=C1)O | C9H8N2O
reactant | K2CO3 | 6.3 mmol, 0.87 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-bromoethanol | 3.78 mmol, 0.470 g | BrCCO | C2H5BrO
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 2-[(2-Amino-4-quinolinyl)oxy]-1-ethanol | NC1=NC2=CC=CC=C2C(=C1)OCCO | C11H12N2O2
